US06555665B1
A suspension of 4.2 g (6.9 mmol) of Thioglycoside [14], 1.5 g (4.6 mmol) of freshly prepared, vacuum-dried 3-O-Acetylmorphine and 6.0 g 3 Å Molecular Sieves in 60 mL Dichloromethane was stirred at room temperature for 30 min and cooled to −15° C. by an ice-salt-acetone bath. Trifluoromethanesulfonic acid (TfOH) (1.0 g, 6.7 mmol) was added dropwise while keeping the temperature at below −10° C. and then N-Iodosuccinimide (NIS) (1.55 g, 6.9 mmol) was added in three portions. The resulted mixture was stirred for 4 hours at −5° C. and for an additional 30 min. at room temperature. Then the reaction mixture was diluted with Dichloromethane, filtered through Celite, stirred for 30 min with saturated aq. Sodium Hydrogen Carbonate solution (60 mL) and the aqueous layer was separated. The organic layer was washed twice with 60 mL portions of Sodium Thiosulphate saturated aqueous solution and water. The combined aqueous solution was washed with 60 mL of Dichloromethane. Combined organic solution was dried over Sodium Sulfate anhydrous, filtered and evaporated under reduced pressure. After separation on Silica Gel collumn compound [13] 1.93 g (51%) and 0.4 g of Morphine were obtained.

reactant | 3-O-Acetylmorphine | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C19H21NO4
reactant | Trifluoromethanesulfonic acid | 6.7 mmol, 1.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | N-Iodosuccinimide | 6.9 mmol, 1.55 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | Dichloromethane | 60 mL | ClCCl | CH2Cl2
product | Morphine | 0.4 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
